US05574042
A mixture of 8-(3-amino-2,6-dichlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine dihydrochloride (100 mg) and acetic anhydride (100 mg) in dry pyridine (2 ml) was stirred at 90° C. for one hour. The cooled mixture was poured into an ice water (10 ml). The precipitated solid was collected, washed with water, and dried under reduced pressure to give 8-(3-acetylamino-2,6-dichlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine (65 mg) as a solid.

reactant | 8-(3-amino-2,6-dichlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine dihydrochloride | 100 mg | Cl.Cl.NC=1C(=C(COC=2C=3N(C=CC2)C(=C(N3)C)Br)C(=CC1)Cl)Cl
reactant | acetic anhydride | 100 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 8-(3-acetylamino-2,6-dichlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine | 65 mg | C(C)(=O)NC=1C(=C(COC=2C=3N(C=CC2)C(=C(N3)C)Br)C(=CC1)Cl)Cl | C17H14BrCl2N3O2
